### PR TITLE
Kernel lemmas

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

- new definitions `kermxpoly g p` (the kernel of polynomial $p(g)$).
  + new elementary theorems: `kermxpolyC`, `kermxpoly1`, `kermxpolyX`, `kermxpoly_min`
  + kernel lemmas: `mxdirect_kermxpoly`, `kermxpolyM`, `kermxpoly_prod`, and `mxdirect_sum_kermx`
  + correspondance between `eigenspace` and `kermxpoly`: `eigenspace_poly`
- generalized eigenspace `geigenspace` and a generalization of eigenvalues called `eigenpoly g` (i.e. polynomials such that `kermxpoly g p` is nonzero, e.g. eigen polynomials of degree 1 are of the form `'X - a%:P` where `a` are eigenvalues).
  + correspondance with `kermx`: `geigenspaceE`
  + application of kernel lemmas `mxdirect_sum_geigenspace`
  + new lemmas: `eigenpolyP`, `eigenvalue_poly`
- new `map_mx` lemmas: `map_kermxpoly`, `map_geigenspace`, `eigenpoly_map`.

Part of #207

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/mxpoly.v [hunk 1]
```diff
@@ -786,6 +790,155 @@ Qed.
...
+  by rewrite mulrAC [q * p]mulrC rmorphM/= mulrA -!mulmxE mulmx_ker mul0mx.
+rewrite -[_ * _ * q]mulrA [u * _]mulrC.
+by rewrite rmorphM mulrA -!mulmxE mulmx_ker mul0mx.
+Qed.
+
+Lemma kermxpoly_prod n (g : 'M_n)
+    (I : finType) (P : {pred I}) (p_ : I -> {poly K}) :
+  {in P &, forall i j, j != i -> coprimep (p_ i) (p_ j)} ->
+  (kermxpoly g (\prod_(i | P i) p_ i) :=: \sum_(i | P i) kermxpoly g (p_ i))%MS.
+Proof.
```
Comment (thery) [inline mathcomp/algebra/mxpoly.v:853]: Don't understand why this proof is so long.
Thought it was a simple elimination with ind2.
Unfortunately ind2 seems to weak.

File: mathcomp/algebra/mxpoly.v [hunk 2]
```diff
@@ -30,6 +30,10 @@ From mathcomp Require Import ssralg zmodp matrix mxalgebra poly polydiv.
 (* degree_mxminpoly A == the (positive) degree of mxminpoly A.                *)
 (* mx_inv_horner A == the inverse of horner_mx A for polynomials of degree    *)
 (*                  smaller than degree_mxminpoly A.                          *)
+(*    kermxpoly g p == the kernel of p(g)                                     *)
+(*  geigenspace g a == the generalized eigenspace of g for eigenvalue a       *)
+(*                  := kermxpoly ('X ^ n - a%:P) where g : 'M_n               *)
```
Comment (CohenCyril) [inline mathcomp/algebra/mxpoly.v:35]:
```suggestion
(*                  := kermxpoly g ('X ^ n - a%:P) where g : 'M_n             *)
```

File: mathcomp/algebra/mxpoly.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/mxpoly.v:853]: :laughing: I had exactly the same thoughts, in this order... but then I realized that it is not a simple elimination, because the parisize coprimality hypothesis is used to derive coprimality with partial products, and simple inductions do not take into account partial big operators. So maybe there is a higher order induction scheme for this, but I did not figure it out, and went for an induction on the sequence instead.

**Comment by CohenCyril** [comment]
@thery are you ok with a merge?
